US07704995B2
Phenylmethyl 4-{5-amino-6-[(methylamino)carbonyl]pyrazin-2-yl}benzoate:
To a stirred mixture of 3-amino-6-bromo-N-methyl-2-pyrazinecarboxamide (0.577 g, 2.5 mmol), 4-benzyloxycarbonylphenylboronic acid (0.768 g, 3.0 mmol), triethylamine (1.01 g, 10 mmol) in 10 mL of DMF was added [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) complex with dichloromethane (1:1), (20.4 mg, 0.025 mmol). The stirred mixture was warmed to 80-90° C. for 12 h and then concentrated on a rotary evaporator under reduced pressure. The residue was dissolved in 50 mL of EtOAc, washed with brine (30 mL). The organic layer was filtered through celite, and then dried over anhydrous sodium sulfate. Filtration, concentration and column chromatography on silica EtOAc) gave a solid (450 mg, 59.7% yield). 1H NMR (400 MHz; DMSO-d6): 8.91 (s, 1H); 8.84 (br s, 1H); 8.33 (d, 2H); 8.02 (d, 2H); 7.30-7.48 (m, 5H); 5.38 (s, 2H); 2.86 (s, 3M); MS (EI) for C20H15N4O3: 363 (MH+).

reactant | 3-amino-6-bromo-N-methyl-2-pyrazinecarboxamide | 2.5 mmol, 0.577 g | NC=1C(=NC(=CN1)Br)C(=O)NC | C6H7BrN4O
reactant | 4-benzyloxycarbonylphenylboronic acid | 3.0 mmol, 0.768 g | C(C1=CC=CC=C1)OC(=O)C1=CC=C(C=C1)B(O)O | C14H13BO4
reactant | triethylamine | 10 mmol, 1.01 g | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 0.025 mmol, 20.4 mg | ClCCl | CH2Cl2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Phenylmethyl 4-{5-amino-6-[(methylamino)carbonyl]pyrazin-2-yl}benzoate | 450 mg, 59.7% yield | NC=1N=CC(=NC1C(=O)NC)C1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C20H18N4O3
